US04281000
3-Chloro-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 3.92 g. of 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine and 3.40 g. of N-chlorobenzotriazole in 100 ml. of dichloromethane is heated on a steam bath for 15 minutes. The mixture is poured into 100 ml. of ice cold 2.5 N sodium hydroxide and the dichloromethane layer is separated and dried over anhydrous sodium sulfate. The dichloromethane extract is passed through a column of hydrous magnesium silicate and the eluent is concentrated and diluted with hexane to give 2.75 g. of the product of the example, m.p. 225°-226° C.

reactant | 7-(3-pyridyl)pyrazolo[1,5-a]-pyrimidine | N1=CC(=CC=C1)C1=CC=NC=2N1N=CC2 | C11H8N4
reactant | N-chlorobenzotriazole | ClN1N=NC2=C1C=CC=C2 | C6H4ClN3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Chloro-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | ClC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C11H7ClN4
